US07217724B2
Under nitrogen atmosphere, to a suspension of (7-(benzyloxy)-1H-indol-3-yl)acetonitrile (13.2 g, 50.3 mmol) in methanol (400 mL) is added 10N aqueous sodium hydroxide solution (130 mL), and the mixture is refluxed for 5 hours. The reaction solution is cooled to room temperature, and methanol alone is distilled off. The pH value of the resultant is adjusted to pH 1 with conc. hydrochloric acid while the mixture is cooled with ice. The precipitates are collected by filtration, and dissolved in chloroform, and dried over anhydrous sodium sulfate. The solvent is evaporated to give (7-(benzyloxy)-1H-indol-3-yl)acetic acid (12.2 g, 43.4 mmol, yield: 86%).

reactant | (7-(benzyloxy)-1H-indol-3-yl)acetonitrile | 50.3 mmol, 13.2 g | C(C1=CC=CC=C1)OC=1C=CC=C2C(=CNC12)CC#N | C17H14N2O
reactant | sodium hydroxide | 10N, 130 mL | [OH-].[Na+]
reactant | methanol | 400 mL | CO | CH4O
product | (7-(benzyloxy)-1H-indol-3-yl)acetic acid | 43.4 mmol, 12.2 g, yield: 86% | C(C1=CC=CC=C1)OC=1C=CC=C2C(=CNC12)CC(=O)O | C17H15NO3
